US04119717
A. 3-Deoxy-3β-bromo-16-deacetoxy-16β-(acetylthio)fusidic acid acetoxymethyl ester
Phenyl N,N-dimethylformamide bromide was prepared by dropwise addition of phenyl chloroformate (6.5 ml; 50 mmol) to a stirred solution of sodium bromide (5.14 g; 50 mmol) in dimethylformamide at 0°-5° C. Sodium chloride precipitated, and the resulting suspension was stirred at 0°-5° C. for 4 hours and then at room temperature overnight. The mixture was cooled to 0° C. and 16-deacetoxy-16β-(acetylthio)fusidic acid acetoxymethyl ester (6.07 g; 10 mmol) was added with stirring. After stirring at 0°-5° C. for 4 hours, the mixture was left at room temperature for a further 4 days. On dilution of the stirred reaction mixture with methanol-water 1:1 (75 ml) an oily product precipitated, which was washed repeatedly by decantation with methanol-water 1:1 and finally taken up in ether, dried, and evaporated in vacuo. The amorphous residue thus obtained was purified by dry column chromatography on silica gel (petroleum ether-ethyl acetate 85:15) to give the desired compound as a colourless foam.

reactant | phenyl chloroformate | 50 mmol, 6.5 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium bromide | 50 mmol, 5.14 g | [Br-].[Na+]
reactant | methanol water | 75 ml | CO.O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | Phenyl N,N-dimethylformamide bromide | [Br-].C1(=CC=CC=C1)C(=O)N(C)C | InChI=1S/C9H11NO.BrH/c1-10(2)9(11)8-6-4-3-5-7-8;/h3-7H,1-2H3;1H/p-1
